US06713474B2
tert-Butyl N-4-[4-chloro-7-(1,4-dioxaspiro[4.5]dec-8-yl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-2-methoxyphenylcarbamate (5.7 g, 0.011 mol), conc. ammonia solution (100 mL) and dioxan (100 mL) were heated in a pressure vessel for 20 hr at 120° C. The solvent was evaporated and the residue reconstituted in EtOAc/water (250 mL/100 mL). The organic layer was separated , dried (sodium sulphate), filtered and evaporated to give a solid which by HPLC (conditions: 5 to 95% CH3CN in 0.1 N aqueous ammonium acetate over 20 min.) was observed to be a 2:1 mixture of tert-butyl N-4-[4-amino-7-(1,4-dioxaspiro[4.5]dec-8-yl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-2-methoxyphenylcarbamate and 5-(4-amino-3-methoxyphenyl)-7-(1,4-dioxaspiro[4.5]dec-8-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine. The mixture was dissolved in acetone (200 mL) and HCl (SN, 100 mL) was added dropwise over 0.5 hr. The resulting solution was stirred at room temperature overnight and the solvent was then evaporated. The acidic solution was basified with 2N NaOH (ice-cooling) and extracted with EtOAc (3×150 mL). The combined organics were washed with water (2×100 mL). During the extraction process a solid precipitated. This solid was filtered and triturated in hot EtOAc/MeOH. The insolubles were filtered, the filtrate evaporated and then resulting solid triturated with diethylether/ethyl acetate to give a yellow solid. The organic layers from the original extraction were dried (sodium sulphate), filtered and evaporated. The resulting solid was triturated with diethyl ether/ethyl acetate (5:1) and filtered to give 4-[4-amino-5-(4-amino-3-methoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-cyclohexanone as a yellow solid. (2.3 g, combined yield=78%). 1H NMR (d6 DMSO, 400 MHz): 8.17(1H, s), 7.32(1H, s), 6.88(1H, s), 6.77(1H, m), 6.73(1H, m), 6.71(1H, m), 6.07(2H, bs), 5.14(1H, m), 3.81 (3H, s), 2.72(2H, m), 2.35(4H, m), 2.18 (2H, m). HPLC: (5 to 95% CH3CN in 0.1 N aqueous ammonium acetate over 20 min.) tr=11.24 min, 95%

reactant | ammonia | 100 mL | N | H3N
reactant | dioxan | 100 mL | O1CCOCC1 | C4H8O2
reactant | 5-(4-amino-3-methoxyphenyl)-7-(1,4-dioxaspiro[4.5]dec-8-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | NC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCC1(OCCO1)CC2)OC | C21H25N5O3
reactant | HCl | 100 mL | Cl | ClH
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 4-[4-amino-5-(4-amino-3-methoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-cyclohexanone | yield=78% | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)N)OC)C2CCC(CC2)=O | C19H21N5O2
